US08912188B2
To a solution of methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (150 mg, 0.51 mmol) in dioxane (5 mL) was added 4,4,5,5-tetramethyl-2-(5-phenylfuran-3-yl)-1,3,2-dioxaborolane (276 mg, 1.02 mmol), Na2CO3 (54 mg, 0.51 mmol), Pd(PPh3)4 (30 mg, 0.03 mmol). The resulting solution was stirred for 1 h at 90° C. and then concentrated in vacuo to give a residue, which was purified by silica gel column chromatography (3.3% ethyl acetate in petroleum ether) to afford methyl 3-(isopropyl(methyl)amino)-2-(4-phenylfuran-2-yl)quinoxaline-6-carboxylate as a red solid (140 mg, 68%).

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.51 mmol, 150 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 4,4,5,5-tetramethyl-2-(5-phenylfuran-3-yl)-1,3,2-dioxaborolane | 1.02 mmol, 276 mg | CC1(OB(OC1(C)C)C1=COC(=C1)C1=CC=CC=C1)C | C16H19BO3
reactant | Na2CO3 | 0.51 mmol, 54 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(isopropyl(methyl)amino)-2-(4-phenylfuran-2-yl)quinoxaline-6-carboxylate | 140 mg, 68% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1OC=C(C1)C1=CC=CC=C1)C | C24H23N3O3
